US07192943B2
A solution of diethyl 2-aminomalonate (1.68 g) and tert-butyl (2-aminoethyl)carbamate (3.20 g) in dehydrated chloroform (5 ml) was stirred under reflux. After 7 hours, additional tert-butyl (2-aminoethyl)carbamate (3.20 g) was added to the reaction mixture, and the mixture was stirred under reflux for 2 days. To the reaction mixture was added water, and the solution was washed with a mixed solvent of hexane and diisopropyl ether (1:1). The aqueous layer was extracted with methylene chloride. The organic layer was washed with water and extracted with 5% aqueous citric acid solution. The aqueous layer was washed with diethyl ether and basified with sodium hydroxide. The aqueous solution was extracted with methylene chloride. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with a mixed solvent of diisopropyl ether and diethyl ether to give di-tert-butyl 7-amino-6,8-dioxo-2,5,9,12-tetraazatridecanedioate (1.87 g) as a solid.

reactant | diethyl 2-aminomalonate | 1.68 g | NC(C(=O)OCC)C(=O)OCC | C7H13NO4
reactant | tert-butyl (2-aminoethyl)carbamate | 3.20 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | tert-butyl (2-aminoethyl)carbamate | 3.20 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | water | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | di-tert-butyl 7-amino-6,8-dioxo-2,5,9,12-tetraazatridecanedioate | 1.87 g | NC(C(NCCNC(=O)OC(C)(C)C)=O)C(NCCNC(=O)OC(C)(C)C)=O | C17H33N5O6
